US08022205B2
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (70 mg) and (4-bromo-3-methyl-phenyl)-(4-pyridin-3-yl-piperazin-1-yl)-methanone (70 mg) instead of 4-chloropicolinic acid t-butylamide, in the same manner as Example 1-D-07, a crude product of [4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-3-methyl-phenyl]-(4-pyridin-3-yl-piperazin-1-yl)-methanone was obtained, and then the PMB groups were removed according to the above Deprotection method 3, to obtain the desired compound (D-311) as a yellow powder (41 mg, 55%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 70 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | (4-bromo-3-methyl-phenyl)-(4-pyridin-3-yl-piperazin-1-yl)-methanone | 70 mg | BrC1=C(C=C(C=C1)C(=O)N1CCN(CC1)C=1C=NC=CC1)C | C17H18BrN3O
product | [4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-3-methyl-phenyl]-(4-pyridin-3-yl-piperazin-1-yl)-methanone | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C3=C(C=C(C=C3)C(=O)N3CCN(CC3)C=3C=NC=CC3)C)CC3=CC=C(C=C3)OC)C=C1 | C47H50N10O4
